US07888374B2
N-(4-Amino-6-bromo-5-cyano-pyridin-2-yl)-acetamide
4,6-Diamino-2-bromo-nicotinonitrile (100 mg, 0.47 mmol) was dissolved in 1.0 mL of anhydrous pyridine. AcCl (225 μL, 2.35 mmol) was dropped in slowly. The resulting mixture was shaken overnight at ambient temperature. Water (5 mL) was added to the mixture mixture. The resulting brown solid was collected through filtration, washed with cold water, and dried in a vacuum oven to provide the title compound (100 mg, 83%).

reactant | 4,6-Diamino-2-bromo-nicotinonitrile | 0.47 mmol, 100 mg | NC1=CC(=NC(=C1C#N)Br)N | C6H5BrN4
reactant | AcCl | 2.35 mmol, 225 μL | C(=O)(C)Cl | C2H3ClO
reactant | Water | 5 mL | O | H2O
solvent | pyridine | 1.0 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-Amino-6-bromo-5-cyano-pyridin-2-yl)-acetamide | 100 mg, 83% | NC1=CC(=NC(=C1C#N)Br)NC(C)=O | C8H7BrN4O
